US04203987
2,3,4,4a-Tetrahydro-3-[5-(2-Pyridinyl)Pentyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 6.2 g. (0.03 mole) of 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride, 7.5 g. (0.04 mole) of 5-(2-pyridyl)pentyl bromide hydrochloride, 15 g. potassium carbonate, 5 g. potassium iodide, and 0.5 ml. of triethylamine in acetone (200 ml.) is heated under reflux for 72 hours. The reaction is worked up in the usual manner, yielding the title compound as base. This is converted to dihydrochloride salt by treating an acetone solution of base with dry hydrogen chloride, m.p. 266°-69° C. (dec.).

reactant | 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride | 0.03 mole | Cl.C1CNCC2N1C1=CC=CC=C1NC2=O
reactant | 5-(2-pyridyl)pentyl bromide hydrochloride | 0.04 mole | Cl.N1=C(C=CC=C1)CCCCCBr
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,4,4a-Tetrahydro-3-[5-(2-Pyridinyl)Pentyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1=C(C=CC=C1)CCCCCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C21H26N4O
